US09085555B2
C. (5-Acetyl-pyrrolo[2,3-d]pyrimidin-7-yl)-acetic acid tert-butyl ester
A solution of (5-bromo-pyrrolo[2,3-d]pyrimidin-7-yl)-acetic acid tert-butyl ester (220 mg, 0.71 mmol), tri-butyl(1-ethoxyvinyl)tin (285 μL, 0.85 mmol) and tetrakis(triphenylphosphine) palladium (16.28 mg, 14.1 μmol) in toluene (7 mL) was heated at 110° C. for 72 h under argon atmosphere. The mixture was allowed to cool to RT, poured into water and extracted with EtOAc (×2). The combined organic layers were dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (CH2Cl2 to CH2Cl2/MeOH 94:6). TLC, Rf (CH2Cl2/MeOH 9:1)=0.54; MS (UPLC/MS): 276.3 [M+H]+, 320.4 [M+HCOO]−; tR (HPLC conditions f): 1.40 min.

reactant | (5-bromo-pyrrolo[2,3-d]pyrimidin-7-yl)-acetic acid tert-butyl ester | 0.71 mmol, 220 mg | C(C)(C)(C)OC(CN1C=C(C2=C1N=CN=C2)Br)=O | C12H14BrN3O2
reactant | tri-butyl(1-ethoxyvinyl)tin | 0.85 mmol, 285 μL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium | 14.1 μmol, 16.28 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (5-Acetyl-pyrrolo[2,3-d]pyrimidin-7-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=C1N=CN=C2)C(C)=O)=O | C14H17N3O3
